US07732365B2
α-Ethynyl-N-(m-methoxyphenyl)-benzenemethanamine.
The general procedure was followed with cinnamyl carbonate (0.188 g, 0.979 mmol) and m-anisidine (0.150 g, 1.22 mmol). The reaction was conducted at room temperature for 12 h. 1H NMR analysis of the crude reaction mixture indicated the ratio of regioisomers to be 97/3. The mixture was purified by flash column chromatography on silica gel (4% ethyl acetate in hexanes) to give the title compound (0.192 g, 82%). [α]DRT=(c, CHCl3). 1H NMR (400.13 MHz, CDCl3) δ 7.50-7.40 (m, 4H), 7.36 (tt, J=6.8, 2.0 Hz, 1H), 7.14 (t, J=8.0 Hz, 1H), 6.37 (dd, J=8.0, 2.4 Hz, 1H), 6.32 (dd, J=8.4, 2.0 Hz, 1H), 6.12 (ddd, J=16.8, 10.0, 6.0 Hz, 1H), 5.37 (dt, J=16.8, 1.4 Hz, 1H), 5.32 (dt, J=10.4, 1.4 Hz, 1H), 5.03 (br s, 1H), 4.18 (br s, 1H), 3.79 (s, 3H). 13C NMR (100.59 MHz, CDCl3) δ 160.50, 148.47, 141.68, 138.84, 129.71, 128.63, 127.35, 127.02, 115.98, 106.53, 102.62, 99.46, 60.71, 54.85. Anal. Calcd for C16H17NO: C, 80.30; H, 7.16; N, 5.85. Found: C, 80.17; H, 7.24; N, 5.78.

reactant | cinnamyl carbonate | 0.979 mmol, 0.188 g | C(OCC=CC1=CC=CC=C1)([O-])=O
reactant | m-anisidine | 1.22 mmol, 0.150 g | COC1=CC(=CC=C1)N | C7H9NO
product | α-Ethynyl-N-(m-methoxyphenyl)-benzenemethanamine | 0.192 g, 82% | C(#C)C(NC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C16H15NO
